US03991194
10.5 g. (0.05 mole) of ethyl γ-bromo-α-methylbutyrate was combined with 17.0 g. (0.20 mole) of piperidine and 100 ml. of benzene and stirred for 16 hours at room temperature and heated at 60° C for 4 hours. The reaction mixture was cooled and the colorless solid which appeared was removed by filtration. The mother liquor was concentrated to give ethyl α-methyl-γ-piperidinobutyrate as a mobile yellow liquid which distilled (b.p. 78° C at 0.25 mm.) as 6.7 g. (63%) of colorless liquid. The nuclear magnetic resonance and infrared spectra were consistent with the desired compound.

reactant | ethyl γ-bromo-α-methylbutyrate | 0.05 mole | BrCCC(C(=O)OCC)C | C7H13BrO2
reactant | piperidine | 0.20 mole | N1CCCCC1 | C5H11N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | ethyl α-methyl-γ-piperidinobutyrate | CC(C(=O)OCC)CCN1CCCCC1 | C12H23NO2
